US05700836
10 g of 1,1,4,4-tetramethyl-6-hexyl-1,2,3,4-tetrahydro-naphthalene were dissolved in 100 ml of carbon tetrachloride and, after the addition of a spatula tip of iron powder, treated dropwise at 0° C. with 6.4 g of bromine. After stirring at 0° C. for 3 hours the reaction mixture was poured into ice-water, extracted with ether and, after drying over sodium sulphate, evaporated. The crude product was purified by filtration over a silica gel column (eluent hexane/ethyl acetate=9:1) and gave 13 g of 1,1,4,4-tetramethyl-6-hexyl-7-bromo-1,2,3,4-tetrahydro-naphthalene as a pale yellow oil.

reactant | 1,1,4,4-tetramethyl-6-hexyl-1,2,3,4-tetrahydro-naphthalene | 10 g | CC1(CCC(C2=CC(=CC=C12)CCCCCC)(C)C)C | C20H32
reactant | bromine | 6.4 g | BrBr | Br2
solvent | carbon tetrachloride | 100 ml | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | iron | [Fe] | Fe
product | 1,1,4,4-tetramethyl-6-hexyl-7-bromo-1,2,3,4-tetrahydro-naphthalene | 13 g | CC1(CCC(C2=CC(=C(C=C12)Br)CCCCCC)(C)C)C | C20H31Br
